US07989454B2
Step 1: 4-[2-(2-Ethoxycarbonyl-ethyl)-3-(6-oxo-hexyl)-phenoxy]-butyric acid ethyl ester
4-[3-(6-Bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester (10.0 g, 21.2 mmol), pyridine N-oxide (10.06 g, 106 mmol), and sodium bicarbonate (10.0 g, 119 mmol) were heated at reflux with vigorous stirring in toluene (100 mL) for 24 h. The mixture was cooled to room temperature and filtered. The filtrate was then concentrated under reduced pressure and the crude material was purified by column chromatography using 30% ethyl acetate-hexanes as eluant to give the title compound (7.0 g, 81%) as an oil.

reactant | 4-[3-(6-Bromo-hexyl)-2-(2-ethoxycarbonyl-ethyl)-phenoxy]-butyric acid ethyl ester | 21.2 mmol, 10.0 g | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCCBr)CCC(=O)OCC)=O | C23H35BrO5
reactant | pyridine N-oxide | 106 mmol, 10.06 g | [N+]1(=CC=CC=C1)[O-] | C5H5NO
reactant | sodium bicarbonate | 119 mmol, 10.0 g | C([O-])(O)=O.[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(2-Ethoxycarbonyl-ethyl)-3-(6-oxo-hexyl)-phenoxy]-butyric acid ethyl ester | 7.0 g, 81% | C(C)OC(CCCOC1=C(C(=CC=C1)CCCCCC=O)CCC(=O)OCC)=O | C23H34O6
